US07214665B2
5-[6-Amino-2-(1-hydroxy-2-methyl-cyclohexylethynyl)-purin-9-yl]-3,4-dihydroxytetrahydrofuran-2-carboxylic acid ethylamide (JR3177A, JR3177B)
The reaction of 1-Ethynyl-2-methyl-cyclohexanol (JR3169B) (100 mg, 0.72 mmol) with 2-iodo-NECA (25 mg, 0.06 mmol) under the general coupling conditions gave JR3177A (8.0 mg) and JR3177B (8.2 mg) (overall yield 65%) as white solids after purification by a silica plug and RP-HPLC. JR3177A: 1H NMR (CD3OD-d4) δ 8.47 (s, 1H), 6.05 (d, J=6.9 Hz, 1H), 4.77 (dd, J=6.9 Hz, J=4.9 Hz, 1H), 4.45 (d, J=1.9 Hz, 1H), 4.34 (dd, J=4.6 Hz, J=2.1 Hz, 1H), 3.41 (m, 2H), 2.13 (d, J=12.7 Hz, 2H), 1.65 (m, 5H), 1.32 (m, 2H), 1.14 (t, J=7.0 Hz, 3H), 1.13 (d, J=6.6 Hz, 3H). 13C NMR (CD3OD-d4) δ. APCI m/z (rel intensity) 445.3 (MH+, 100), 427.4(80), 254.4(14). 1H NMR (CD3OD-d4) δ 8.49 (s, 1H), 6.05 (d, J=6.9 Hz, 1H), 4.78 (dd, J=6.4 Hz, J=4.9 Hz, 1H), 4.45 (d, J=1.9 Hz, 1H), 4.34 (dd, J=4.6 Hz, J=1.6 Hz, 1H), 3.42 (m, 2H), 2.12 (d, J=12.3 Hz, 2H), 1.65 (m, 4H), 1.35 (m, 4H), 1.14 (t, J=7.3 Hz, 3H), 1.12 (d, J=6.6 Hz, 3H). 13C NMR (CD3OD-d4) δ. APCI m/z (rel intensity) 445.7 (MH+, 100), 427.3(35), 254.4(3.5).

reactant | 1-Ethynyl-2-methyl-cyclohexanol | 0.72 mmol, 100 mg | C(#C)C1(C(CCCC1)C)O | C9H14O
reactant | 2-iodo-NECA | 0.06 mmol, 25 mg | CCNC(=O)[C@@H]1[C@@H](C([C@@H](O1)N2C=NC3=C2N=C(N=C3N)I)O)O | C12H15IN6O4
product | 5-[6-Amino-2-(1-hydroxy-2-methyl-cyclohexylethynyl)-purin-9-yl]-3,4-dihydroxytetrahydrofuran-2-carboxylic acid ethylamide | yield 65% | C(C)NC(=O)C1OC(C(C1O)O)N1C2=NC(=NC(=C2N=C1)N)C#CC1(C(CCCC1)C)O | C21H28N6O5
